US06166206
5-([4-Methoxyphenyl]thio)-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Prepared from 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (0.50 g) (J. Med. Chem., 1995, 38, 2557) and 4-methoxyphenyldisulphide following the method of Example 23.

reactant | 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.50 g | CN1C(N(C=2C(C1=O)=CN(C2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H23N3O2
reactant | 4-methoxyphenyldisulphide | COC1=CC=C(C=C1)SSC1=CC=C(C=C1)OC | C14H14O2S2
product | 5-([4-Methoxyphenyl]thio)-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | COC1=CC=C(C=C1)SC=1N(C=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C29H29N3O3S
